* leung_nmcnr_pin_3 -- PSRR- bench on TSMC6 BSIM-CMG
* Measurements are AnalogGym's TB_Amplifier_ACDC.cir verbatim; supply, common
* mode and load are the TSMC6 design point.
*
* AnalogGym runs all five amplifier instances from one deck.  They share only
* ideal supply rails, so they are electrically independent and splitting them
* changes no measurement -- but five 90 dB loops in one matrix does not solve:
* gmin, source stepping and the transient op all fail, and which groupings
* happen to converge is luck of the Newton basin, not a rule.  One instance per
* deck is the only robust structure.
.include ./tsmc6_models.spice
.include ./netlist.spice

.PARAM supply_voltage = 0.75
.PARAM VCM = 0.1125
.PARAM PARAM_CLOAD = 5e-10

V1 vdd 0 'supply_voltage'
V2 vss 0 0
Vindc opin 0 'VCM'

.nodeset V(npsr1)=0.1125

*    PSRR- TB
VGNDApsrr gndpsrr 0 0 AC=1
xop4 gndpsrr vdd npsr1 opin npsr1 leung_nmcnr_pin_3
Cload4 npsr1 0 'PARAM_CLOAD'

.measure ac DCPSRn find vdb(npsr1) at = 0.1
.end
